US06630128B1
3,4,5-Trihexyloxy-benzaldehyde
The title compound was prepared according to the method described in Example 9 above from 1-bromohexan and 3,4,5-trihydroxy-benzaldehyde.

reactant | 1-bromohexan | BrCCCCCC | C6H13Br
reactant | 3,4,5-trihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1O)O | C7H6O4
product | 3,4,5-Trihexyloxy-benzaldehyde | C(CCCCC)OC=1C=C(C=O)C=C(C1OCCCCCC)OCCCCCC | C25H42O4
